US06727264B1
N-[3-(1-{[2-(ISOPENTYLOXY)-1-NAPHTHYL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2-(isopentyloxy)-1-naphthaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 473.3 (M+H)+.

reactant | 2-(isopentyloxy)-1-naphthaldehyde | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)C=O | C16H18O2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-[3-(1-{[2-(ISOPENTYLOXY)-1-NAPHTHYL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | C(CC(C)C)OC1=C(C2=CC=CC=C2C=C1)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C31H40N2O2
